Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:8].[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.67067439905
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11].[O:12][H:13],6.47830166132
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],5.14329050268
[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][C:7][H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7][H:8],-6.2704111086
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4],3.764955112880002
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:3],3.90033079754
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],4.839720869190001
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])[H:11],4.3306980641
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6][O:7][H:8]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-0.03683056521
[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2]=[C:7]([H:8])[C:9]([H:10])[H:11],3.26186636519
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.83082887204
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],4.03379725351
[H:1][C:2]([H:3])=[C:4][H:5].[H:6]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],-4.9499617344
[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-1.85818906293
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.60340865789
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:9][H:10].[H:8],2.01185356923
[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3][C:4]1[O:5][C:6]1([H:7])[H:8],-2.21614847775
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:12]([H:13])([H:14])[H:15],2.80130681374
[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],6.63558299
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],1.79099704192
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4][H:5],5.23795610721
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5],3.99080462198
[C:1]#[C:4][C:6]([H:7])([H:8])[H:9].[C:2](=[O:3])=[O:5]>>[C:1]=[C:2]([O:3][C:4]=[O:5])[C:6]([H:7])([H:8])[H:9],1.87436716957
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([H:7])[C:8]([H:9])[O:10][H:11],0.773077096059
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[O:3])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.746800739121
[O:1]=[C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[O:10][H:11],0.336759944861
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],4.10063993424
[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],5.78910468798
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],0.0941989331295
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8][O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]([H:11])[H:12],0.151049857461
